US07700641B2
D. Synthesis of 5-fluoro-3-(6-hydroxy-1,3-benzodioxol-5-yl)-3-(hydroxymethyl)-1-{[5-(trifluoromethyl)-2-furyl]methyl}-1,3-dihydro-2H-indol-2-one
A mixture of 5-fluoro-3-(6-hydroxy-1,3-benzodioxol-5-yl)-1-{[5-(trifluoromethyl)-2-furyl]methyl}-1,3-dihydro-2H-indol-2-one (3.64 g, 8.41 mmol), para-formaldehyde (2.52 g, 84.1 mmol) and lithium hydroxide monohydrate (1.06 g, 25.2 mmol) in tetrahydrofuran (84.0 mL) and water (10.0 mL) was stirred at 0° C. for 4 h. After the solvent was removed in vacuo, the residue was dissolved in ethyl acetate (100 mL), washed with 10% aqueous HCl (3×25.0 mL), dried over anhydrous sodium sulfate and filtered. The filtrate was concentrated in vacuo to dryness. The residue was subjected to column chromatography eluting with ethyl acetate/hexanes (50%) to give the title compound (0.65 g, 59%) as a colorless solid: 1H NMR (300 MHz, DMSO-d6) δ 9.11 (s, 1H), 7.12 (d, 1H), 6.99-6.87 (m, 3H), 6.80 (dd, 1H), 6.48 (d, 1H), 6.23 (s, 1H), 5.89 (d, 2H), 5.09 (br, 1H), 4.97 (ABq, 2H), 4.01 (ABq, 2H); 13C NMR (75 MHz, DMSO-d6) δ 176.1, 160.5; MS (ES+) m/z 466.2 (M+1), 448.2 (M−17).

reactant | 5-fluoro-3-(6-hydroxy-1,3-benzodioxol-5-yl)-1-{[5-(trifluoromethyl)-2-furyl]methyl}-1,3-dihydro-2H-indol-2-one | 8.41 mmol, 3.64 g | FC=1C=C2C(C(N(C2=CC1)CC=1OC(=CC1)C(F)(F)F)=O)C1=CC2=C(OCO2)C=C1O | C21H13F4NO5
reactant | para-formaldehyde | 84.1 mmol, 2.52 g | C=O | CH2O
reactant | lithium hydroxide monohydrate | 25.2 mmol, 1.06 g | O.[OH-].[Li+]
solvent | tetrahydrofuran | 84.0 mL | O1CCCC1 | C4H8O
solvent | water | 10.0 mL | O | H2O
product | 5-fluoro-3-(6-hydroxy-1,3-benzodioxol-5-yl)-3-(hydroxymethyl)-1-{[5-(trifluoromethyl)-2-furyl]methyl}-1,3-dihydro-2H-indol-2-one | 0.65 g, 59% | FC=1C=C2C(C(N(C2=CC1)CC=1OC(=CC1)C(F)(F)F)=O)(CO)C1=CC2=C(OCO2)C=C1O | C22H15F4NO6
